US07977351B2
3-[1-Ethyl-6-(2-morpholin-4-yl-ethylamino)-1H-furo[3,4-c]pyridin-3-ylidene]-1,3-dihydro-indol-2-one
A solution of 2-morpholin-4-yl-ethylamine (320 mg, 2.46 mmol) in 3 mL of dioxane is treated with 3-(6,7-Dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one (100 mg, 0.32 mmol) in one portion and the reaction mixture is heated at 100° C. until no starting material remains. The reaction mixture is cooled to room temperature and concentrated. The residue is purified by chromatography (silica gel, 5% MeOH-EtOAc) to give the title compound as a solid (36 mg, 28%).

reactant | 2-morpholin-4-yl-ethylamine | 2.46 mmol, 320 mg | N1(CCOCC1)CCN | C6H14N2O
reactant | 3-(6,7-Dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one | 0.32 mmol, 100 mg | ClC1=C(C2=C(C=N1)C(OC2CC)=C2C(NC1=CC=CC=C21)=O)Cl | C17H12Cl2N2O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-[1-Ethyl-6-(2-morpholin-4-yl-ethylamino)-1H-furo[3,4-c]pyridin-3-ylidene]-1,3-dihydro-indol-2-one | 36 mg, 28% | C(C)C1OC(C=2C=NC(=CC21)NCCN2CCOCC2)=C2C(NC1=CC=CC=C21)=O | C23H26N4O3
